US07906648B2
HCl gas was bubbled through a suspension of 3-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzonitrile (287.8 mg, 0.60 mmol) in, 3.5 mL of anhydrous MeOH. The mixture was then stirred for 5 hours at room temperature before ether (20 mL) was added. The precipitate was then collected by filtration and dried to afford methyl 3-(3-(2-methoxyphenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)benzimidate without further purification.

reactant | HCl | Cl | ClH
reactant | 3-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzonitrile | 0.60 mmol, 287.8 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=C(C#N)C=CC2)S(=O)(=O)C2=CC=C(C=C2)C | C28H21N3O3S
reactant | MeOH | 3.5 mL | CO | CH4O
solvent | ether | 20 mL | CCOCC | C4H10O
product | methyl 3-(3-(2-methoxyphenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)benzimidate | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=C(C(OC)=N)C=CC2)S(=O)(=O)C2=CC=C(C)C=C2 | C29H25N3O4S
